US05621133
Step 3: [1S,3R]1-Aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-1H-2-benzopyran Hydrochloride
[1R]2-(2',3'-Cyclohexylidenedioxyphenyl)-3-phenylethanol was converted to [1S,3R]1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-1H-2-benzopyran by the procedures detailed in Step 3 of Example 47 and Steps 1-3 of Example 48, m.p. 158°-160° C.; [alpha]D =110° (c 0.52, 1N HCl); DCI MS: 272 (M+H)+. Analysis calculated for C16H18ClNO3 : C, 60.60; H, 6.05; N, 4.42. Found: C, 60.71; H, 6.2; N, 4.31.

reactant | [1S,3R]1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-1H-2-benzopyran | NC[C@H]1O[C@H](CC2=C1C=CC(=C2O)O)C2=CC=CC=C2 | C16H17NO3
reactant | HCl | 1N | Cl | ClH
product | [1S,3R]1-Aminomethyl-3,4-dihydro-5,6-dihydroxy-3-phenyl-1H-2-benzopyran Hydrochloride | Cl.NC[C@H]1O[C@H](CC2=C1C=CC(=C2O)O)C2=CC=CC=C2 | InChI=1S/C16H17NO3.ClH/c17-9-15-11-6-7-13(18)16(19)12(11)8-14(20-15)10-4-2-1-3-5-10;/h1-7,14-15,18-19H,8-9,17H2;1H/t14-,15-;/m1./s1
